US04945090
5-Phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid isopropyl ester
2 g of 5-(4-chlorophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid isopropyl ester in 40 ml of isopropanol is hydrogenated with 200 mg of palladium on carbon (10%) and 0.9 ml of triethylamine at room temperature under normal hydrogen pressure. After filtering off of the catalyst, concentration of the filtrate and digesting of the residue with diisopropyl ether, 1.4 g of 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid isopropyl ester with a melting point of 201°-203° C. is obtained.

reactant | 5-(4-chlorophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid isopropyl ester | 2 g | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=CC=C(C=C1)Cl | C23H21ClN2O4
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | 5-Phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid isopropyl ester | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=CC=CC=C1 | C23H22N2O4
